US05961960
2-(1-(2-ethylhexyl)benzimidazol-2-yl)-benzothiazole (route C)
48.8 g (0.2 mol) of 1-(2-ethylhexyl)-2-methylbenzimidazole (prepared by the alkylation of 2-methylbenzimidazole and 2-ethylhexyl bromide under phase transfer conditions), 25 g (0.2 mol) of o-aminothiophenol and 19.2 g (0.6 mol) of sulphur in 200 ml of pyridine are heated for 18 hours under reflux. Then the pyridine is distilled off and the remaining residue is dissolved by heating in 80 g of ethanol. After cooling, 55.2 g (76% of theory) of the product, which, according to its melting point and BPLC and UV analysis, is identical to the compound obtained in Example 18 by route A, are precipitated.

reactant | 1-(2-ethylhexyl)-2-methylbenzimidazole | 0.2 mol, 48.8 g | C(C)C(CN1C(=NC2=C1C=CC=C2)C)CCCC | C16H24N2
reactant | 2-methylbenzimidazole | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | 2-ethylhexyl bromide | C(C)C(CBr)CCCC | C8H17Br
reactant | o-aminothiophenol | 0.2 mol, 25 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | sulphur | 0.6 mol, 19.2 g | [S] | S
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 2-(1-(2-ethylhexyl)benzimidazol-2-yl)-benzothiazole | C(C)C(CN1C(=NC2=C1C=CC=C2)C=2SC1=C(N2)C=CC=C1)CCCC | C22H25N3S
